US06821967B2
9-[4-(4-quinolin-2-yl-[1.4]diazepan-1-yl)-butyl]-9H-xanthene-9-carboxylic acid-(2,2,2-trifluoro-ethyl)-amide
Prepared analogously to Example 2 from 9-(4-bromo-butyl)-9H-xanthene-9-carboxylic acid-(2,2,2-trifluoro-ethyl)-amide and 2-[1.4]diazepan-1-yl-quinoline.

reactant | 9-(4-bromo-butyl)-9H-xanthene-9-carboxylic acid-(2,2,2-trifluoro-ethyl)-amide | FC(CNC(=O)C1(C2=CC=CC=C2OC=2C=CC=CC12)CCCCBr)(F)F | C20H19BrF3NO2
reactant | 2-[1.4]diazepan-1-yl-quinoline | N1(CCNCCC1)C1=NC2=CC=CC=C2C=C1 | C14H17N3
product | 9-[4-(4-quinolin-2-yl-[1.4]diazepan-1-yl)-butyl]-9H-xanthene-9-carboxylic acid-(2,2,2-trifluoro-ethyl)-amide | FC(CNC(=O)C1(C2=CC=CC=C2OC=2C=CC=CC12)CCCCN1CCN(CCC1)C1=NC2=CC=CC=C2C=C1)(F)F | C34H35F3N4O2
